US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(3-methyl-1,2,4-thiadiazol-5-yl)benzamide
DIPEA (0.5 mL, 3.0 mmol) was added to a suspension of 3-[4-(azetidin-1-ylcarbonyl)phenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid (485 mg, 1.0 mmol), HATU (4951 g, 1.3 mmol) and 5-amino-3-methyl-1,2,4 thiadiazole (345 mg, 3.0 mmol) in DMF (6 mL). The resulting mixture was stirred at ambient temperature for 16 hours, water (90 mL) was added and the mixture extracted with ethyl acetate. The extracts were combined, washed with brine, dried (MgSO4), filtered and evaporated in vacuo to give the crude product which was chromatographed on silica, eluting with 75% ethyl acetate in isohexane, to give the desired compound (580 mg).

reactant | DIPEA | 3.0 mmol, 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-[4-(azetidin-1-ylcarbonyl)phenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid | 1.0 mmol, 485 mg | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)O)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1 | C26H35NO6Si
reactant | HATU | 1.3 mmol, 4951 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-amino-3-methyl-1,2,4 thiadiazole | 3.0 mmol, 345 mg | NC1=NC(=NS1)C | C3H5N3S
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | 90 mL | O | H2O
product | 3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(3-methyl-1,2,4-thiadiazol-5-yl)benzamide | 580 mg | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)NC3=NC(=NS3)C)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1 | C29H38N4O5SSi
